US07417169B2
N-[(1S,2R)-2-(4-Benzyloxy-3-nitrophenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide
Benzyl bromide (22 mL) was added to a suspension of 2,2,2-trifluoro-N-[(1S,2R)-2-hydroxy-2-(4-hydroxy-3-nitrophenyl)-1-methylethyl]acetamide (55 g) and potassium carbonate (36.8 g) in N,N-dimethylformamide (529 mL) at room temperature with stirring, and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was concentrated in vacuo, and ethyl acetate and water were added to the residue. The organic layer was separated, washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford the title compound (73 g).

reactant | Benzyl bromide | 22 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2,2,2-trifluoro-N-[(1S,2R)-2-hydroxy-2-(4-hydroxy-3-nitrophenyl)-1-methylethyl]acetamide | 55 g | FC(C(=O)N[C@H]([C@@H](C1=CC(=C(C=C1)O)[N+](=O)[O-])O)C)(F)F | C11H11F3N2O5
reactant | potassium carbonate | 36.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 529 mL | CN(C=O)C | C3H7NO
product | N-[(1S,2R)-2-(4-Benzyloxy-3-nitrophenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide | 73 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H]([C@H](C)NC(C(F)(F)F)=O)O)[N+](=O)[O-] | C18H17F3N2O5
